US07351719B2
Z45c) (E)-N-[3-chloro-4-(3-hydroxy-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide
Prepared analogously to Intermediate product Z32a starting from (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid (Z37b) and 3-(2-chloro-4-nitro-phenyl)-propan-1-ol. The crude product was purified by column chromatography (silica gel, petroleum ether/EtOAc 1:1).

reactant | (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid | ClC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C10H6ClF3O2
reactant | 3-(2-chloro-4-nitro-phenyl)-propan-1-ol | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCCO | C9H10ClNO3
product | (E)-N-[3-chloro-4-(3-hydroxy-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | ClC=1C=C(C=CC1CCCO)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C19H16Cl2F3NO2
